US07291636B2
3-(3,5-Difluorophenyl)-2-hydroxy-(2S)-propionic acid
A suspension of 1.6 g of (S)-3,5-difluoro-phenyalanine in 5.3 ml of H2SO4 (2.5N) is admixed dropwise at 0° C. with a solution of 0.829 g of sodium nitrite in 4.2 ml of H2O. The reaction mixture is stirred for 2 hours at 0° C. and then for 17 hours at ambient temperature. The reaction mixture is extracted with 2×100 ml of AcOEt. The combined organic phases are washed with 100 ml of saturated NaCl solution in H2O. Drying gives 1.197 g of yellow crystals. The acid obtained is used without further purification in the following step.

reactant | (S)-3,5-difluoro-phenyalanine | 1.6 g | FC=1C=C(C[C@H](N)C(=O)O)C=C(C1)F | C9H9F2NO2
reactant | sodium nitrite | 0.829 g | N(=O)[O-].[Na+]
solvent | H2SO4 | 2.5N, 5.3 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | 4.2 ml | O | H2O
product | 3-(3,5-Difluorophenyl)-2-hydroxy-(2S)-propionic acid | 1.197 g | FC=1C=C(C=C(C1)F)C[C@@H](C(=O)O)O | C9H8F2O3
